US08895566B2
DIEA (0.035 mL, 0.20 mmol) was added to a stirred suspension of (5R,7R)-4-(3-(2-amino-1-(4-chlorophenyl)ethyl)benzo[d]isothiazol-6-yl)-5-methyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-7-ol trihydrochloride (22 mg, 0.050 mmol) in DCE (1.5 mL). The suspension was shaken until dissolved. A solution of acetone (0.022 mL, 0.30 mmol) in THF (0.3 mL) was added. The reaction was allowed to stir at room temperature for 15 minutes, at which point Na(OAc)3BH (27 mg, 0.13 mmol) was added. The reaction was allowed to stir at room temperature for 1 hour. The reaction mixture was diluted with DCM, washed with saturated aqueous NaHCO3 solution and brine, dried and concentrated. The resulting residue was purified by column chromatography (DCM:7N ammonia in MeOH, 30:1) to give the free base, which was taken up in DCM and acidified with 2N HCl in ether. Removal of the solvents under reduced pressure gave (5R,7R)-4-(3-(1-(4-chlorophenyl)-2-(isopropylamino)ethyl)benzo[d]isothiazol-6-yl)-5-methyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-7-ol trihydrochloride. LCMS (APCI+) m/z 479, 481 [M+H]+; Rt=2.69 min.

reactant | DIEA | 0.20 mmol, 0.035 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | (5R,7R)-4-(3-(2-amino-1-(4-chlorophenyl)ethyl)benzo[d]isothiazol-6-yl)-5-methyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-7-ol trihydrochloride | 0.050 mmol, 22 mg | Cl.Cl.Cl.NCC(C1=CC=C(C=C1)Cl)C1=NSC2=C1C=CC(=C2)C=2C1=C(N=CN2)[C@@H](C[C@H]1C)O
reactant | acetone | 0.30 mmol, 0.022 mL | CC(=O)C | C3H6O
reactant | Na(OAc)3BH | 0.13 mmol, 27 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | HCl | 2N | Cl | ClH
solvent | DCE | 1.5 mL | ClCCCl | C2H4Cl2
solvent | THF | 0.3 mL | C1CCOC1 | C4H8O
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | ether | CCOCC | C4H10O
product | (5R,7R)-4-(3-(1-(4-chlorophenyl)-2-(isopropylamino)ethyl)benzo[d]isothiazol-6-yl)-5-methyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-7-ol trihydrochloride | Cl.Cl.Cl.ClC1=CC=C(C=C1)C(CNC(C)C)C1=NSC2=C1C=CC(=C2)C=2C1=C(N=CN2)[C@@H](C[C@H]1C)O | InChI=1S/C26H27ClN4OS.3ClH/c1-14(2)28-12-20(16-4-7-18(27)8-5-16)25-19-9-6-17(11-22(19)33-31-25)24-23-15(3)10-21(32)26(23)30-13-29-24;;;/h4-9,11,13-15,20-21,28,32H,10,12H2,1-3H3;3*1H/t15-,20?,21-;;;/m1.../s1
